US07375119B2
5-Aminovaleric acid (7.35 g) is dissolved in methanol (50 ml), and thereto is added dropwise thionyl chloride (4.9 ml) under ice-cooling. The reaction solution is then warmed to room temperature and stirred for 17 hours. The reaction solution is concentrated under reduced pressure. The resulting residue is suspended in diethyl ether and the precipitates are collected by filtration to give methyl 5-aminovalerate hydrochloride (9.93 g).

reactant | 5-Aminovaleric acid | 7.35 g | NCCCCC(=O)O | C5H11NO2
reactant | thionyl chloride | 4.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 ml | CO | CH4O
product | methyl 5-aminovalerate hydrochloride | 9.93 g | Cl.NCCCCC(=O)OC | InChI=1S/C6H13NO2.ClH/c1-9-6(8)4-2-3-5-7;/h2-5,7H2,1H3;1H
